US08030322B2
Preparation 6: 5-chloro-1-(cyanomethyl)-2,3-dihydro-1H-indene-1-carbonitrile (Prep6)
To a solution of (E)-ethyl 2-(5-chloro-2,3-dihydro-1H-inden-1-ylidene)-2-cyanoacetate (Prep5, 100 g, 0.38 mol) in ethanol (800 ml) a solution of KCN (67.5 g, 1 mol) in water (230 ml) was added and the reaction mixture was warmed to 65° C. and stirred for 21 h. Then the solvent was removed under vacuum The residue was treated with ether and the organic phase washed with water. Solvent was evaporated and the crude obtained was purified by crystallization from ethanol to obtain the title compound (36 g, y=43.5%).

reactant | (E)-ethyl 2-(5-chloro-2,3-dihydro-1H-inden-1-ylidene)-2-cyanoacetate | 0.38 mol, 100 g | ClC=1C=C2CC/C(/C2=CC1)=C(\C(=O)OCC)/C#N | C14H12ClNO2
reactant | KCN | 1 mol, 67.5 g | [C-]#N.[K+]
solvent | ethanol | 800 ml | C(C)O | C2H6O
solvent | water | 230 ml | O | H2O
product | 5-chloro-1-(cyanomethyl)-2,3-dihydro-1H-indene-1-carbonitrile | 36 g, 43.5% | ClC=1C=C2CCC(C2=CC1)(C#N)CC#N | C12H9ClN2
